US07884207B2
A 500 mL round bottom flask was charged with 2,4-dichloro-5,6-dimethyl-3-nitropyridine (6.00 g, 27.1 mmol), 1-aminomethyl-1-cyclohexanol hydrochloride (4.94 g, 29.8 mmol), and N,N-dimethylformamide (200 mL). The solution was cooled to 0° C. and triethylamine (8.31 mL, 59.6 mmol) was added dropwise. The solution was heated to 35° C. for 3 d. The volatiles were removed under reduced pressure and the resulting oil was partitioned between dichloromethane (300 mL) and water (50 mL). The organic layer was washed with water (50 mL) and brine (30 mL), dried over MgSO4, filtered, concentrated under reduced pressure, and dried under vacuum to yield 1-{[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]methyl}cyclohexanol that was used without further manipulation in the next step.

reactant | 2,4-dichloro-5,6-dimethyl-3-nitropyridine | 27.1 mmol, 6.00 g | ClC1=NC(=C(C(=C1[N+](=O)[O-])Cl)C)C | C7H6Cl2N2O2
reactant | 1-aminomethyl-1-cyclohexanol hydrochloride | 29.8 mmol, 4.94 g | Cl.NCC1(CCCCC1)O
reactant | triethylamine | 59.6 mmol, 8.31 mL | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 200 mL | CN(C=O)C | C3H7NO
product | 1-{[(2-chloro-5,6-dimethyl-3-nitropyridin-4-yl)amino]methyl}cyclohexanol | ClC1=NC(=C(C(=C1[N+](=O)[O-])NCC1(CCCCC1)O)C)C | C14H20ClN3O3
